US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-4-(1-adamantylamino)butyric acid and ethyl 3-aminopropionate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-[N-(p-chlorobenzoyl)-4-(1-adamantylamino)butyryl]-3-aminopropionic acid.

reactant | N-(p-chlorobenzoyl)-4-(1-adamantylamino)butyric acid | ClC1=CC=C(C(=O)N(CCCC(=O)O)C23CC4CC(CC(C2)C4)C3)C=C1 | C21H26ClNO3
reactant | ethyl 3-aminopropionate | NCCC(=O)OCC | C5H11NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-[N-(p-chlorobenzoyl)-4-(1-adamantylamino)butyryl]-3-aminopropionic acid | ClC1=CC=C(C(=O)N(CCCC(=O)NCCC(=O)O)C23CC4CC(CC(C2)C4)C3)C=C1 | C24H31ClN2O4
